US07084154B2
A solution of 1-methoxy-2,3-dimethyl-4-nitro-benzene (5.0 g), N,N-dimethylformamide dimethylacetal (7.4 mL) and triethylamine (0.10 mL) in 25 mL of N,N-dimethylformamide was heated to reflux for 3 days under nitrogen. The volatiles were removed in vacuo and the resulting residue was dissolved in 40 mL of a 1:1 mixture of methanol and tetrahydrofuran. Raney nickel (50% slurry in water, 1 mL) was added to the solution, then hydrazine hydrate (2.7 mL) was added dropwise and the mixture was stirred for 40 min under nitrogen. The reaction mixture was filtered through a bed of celite and the filtrate was reduced in vacuo. The product was purified by column chromatography (30% ethyl acetate in hexanes) to yield 1.5 g of pure 5-methoxy-4-methyl-indole.

reactant | 1-methoxy-2,3-dimethyl-4-nitro-benzene | 5.0 g | COC1=C(C(=C(C=C1)[N+](=O)[O-])C)C | C9H11NO3
reactant | N,N-dimethylformamide dimethylacetal | 7.4 mL | COC(N(C)C)OC | C5H13NO2
reactant | triethylamine | 0.10 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 5-methoxy-4-methyl-indole | 1.5 g | COC=1C(=C2C=CNC2=CC1)C | C10H11NO
